US06610747B2
2,3-Dihydro-1,4-benzoxathiin-6-ol
1,2-Dibromoethane (2.3 mL, 26.7 mmol) and K2CO3 (8.21 g, 59.4 mmol) were slurried in acetone (250 mL) and a solution of 2-sulfanyl-1,4-benzenediol (prepared according to J. Org. Chem. 1990, 55, 2736) (4.22 g, 29.7 mmol) in acetone (50 mL) was added over 4 h to the stirred mixture. Once the addition was complete stirring was continued for a further 10 h before the solvent was removed in vacuo. The residue was partitioned between water (50 mL) and EtOAc (50 mL), the aqueous layer was extracted with EtOAc (50 mL) and the combined organic layers were dried (MgSO4) and evaporated. Purification of the residue by column chromatography [SiO2; 9:1 (pentane/EtOAc)] gave the title compound (2.48 g, 55%) as a pale orange oil; δH (CDCl3, 400 MHz) 3.08 (2H, m), 4.31 (2H, m), 4.44 (1H, s), 6.42 (1H, d), 6.49 (1H, s), 6.66 (1H, d); MS m/z (ES−) 167 (M−H+).

reactant | 1,2-Dibromoethane | 26.7 mmol, 2.3 mL | BrCCBr | C2H4Br2
reactant | K2CO3 | 59.4 mmol, 8.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-sulfanyl-1,4-benzenediol | 29.7 mmol, 4.22 g | SC1=C(C=CC(=C1)O)O | C6H6O2S
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2,3-Dihydro-1,4-benzoxathiin-6-ol | 2.48 g, 55% | O1CCSC2=C1C=CC(=C2)O | C8H8O2S
